US06294573B1
3-benzyl-2,5-dioxo-4,4-dimethylimidazolidine
A solution of 3-benzyl-1-(4′-methoxybenzyl)-2,5-dioxo-4,4-dimethylimidazolidine (3.9 g, 11.54 mmol) in acetonitrile (100 mL) was treated with a solution of ammonium cerium nitrate (31 g, 57.7 mmol) in 65 mL of water, stirred at 25° C. for 15 minute, then diluted the reaction with ethyl acetate and partitioned between ethyl acetate and brine. The organic layer was dried, filtered, and concentrated. Purification by recrystalization with ethyl acetate/hexane provided 1.58 g (7.25 mmol, 63%) of title compound as white solid. MS (DCI/NH3) m/e 236 (M+NH4)+.

reactant | 3-benzyl-1-(4′-methoxybenzyl)-2,5-dioxo-4,4-dimethylimidazolidine | 11.54 mmol, 3.9 g | C(C1=CC=CC=C1)N1C(N(C(C1(C)C)=O)CC1=CC=C(C=C1)OC)=O | C20H22N2O3
reactant | ammonium cerium nitrate | 57.7 mmol, 31 g | [N+](=O)([O-])[O-].[Ce].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 65 mL | O | H2O
product | 3-benzyl-2,5-dioxo-4,4-dimethylimidazolidine | 7.25 mmol, 1.58 g, 63% | C(C1=CC=CC=C1)N1C(NC(C1(C)C)=O)=O | C12H14N2O2
